US04912117
1-(2-Phenylethyl)-Alpha-[3-(Trifluoromethyl) Phenyl]-4-Piperidinemethanol
To a solution of [1-(2-phenylethyl)-4-piperidinyl][3-(trifluoromethyl)-phenyl]-methanone (2.8 g, 7.75 mmol) in methanol (50 ml) cooled in an ice bath was added portionwise sodium borohydride (0.3 g, 7.75 mmol). The reaction was allowed to warm to room temperature and stirred an additional 4 h. The mixture was evaporated and the residue extracted with Et2O, washed with H2O (3×100 ml), saturated aqueous NaCl (1×100 ml), dried (Mg SO4), filtered and evaporated to give a white solid. This solid was recrystallized from ether-hexane to give white needles, mp 143°-147° C.

reactant | [1-(2-phenylethyl)-4-piperidinyl][3-(trifluoromethyl)-phenyl]-methanone | 7.75 mmol, 2.8 g | C1(=CC=CC=C1)CCN1CCC(CC1)C(=O)C1=CC(=CC=C1)C(F)(F)F | C21H22F3NO
reactant | sodium borohydride | 7.75 mmol, 0.3 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-(2-Phenylethyl)-Alpha-[3-(Trifluoromethyl) Phenyl]-4-Piperidinemethanol | C1(=CC=CC=C1)CCN1CCC(CC1)C(O)C1=CC(=CC=C1)C(F)(F)F | C21H24F3NO
